US09029371B2
To a degassed solution of 3-[2-(4-iodo-phenyl)-thiomorpholin-4-yl]-propionic acid tert-butyl ester (0.40 g; 0.92 mmol), and 2-chlorophenol (0.28 g; 2.22 mmol) in DMSO, was added picolinic acid (22.7 mg; 0.18 mmol), CuI (17.6 mg; 0.09 mmol) and K3PO4 (0.78 g; 3.69 mmol). The resulting mixture was heated overnight, at 90° C. After cooling to RT, water was added and the mixture extracted with CH2Cl2. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (SiO2, Et2O/hexanes 1:2) to afford 3-{2-[4-(2-Chloro-phenoxy)-phenyl]-thiomorpholin-4-yl}-propionic acid tert-butyl ester (0.15 g).

reactant | 3-[2-(4-iodo-phenyl)-thiomorpholin-4-yl]-propionic acid tert-butyl ester | 0.92 mmol, 0.40 g | C(C)(C)(C)OC(CCN1CC(SCC1)C1=CC=C(C=C1)I)=O | C17H24INO2S
reactant | 2-chlorophenol | 2.22 mmol, 0.28 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | picolinic acid | 0.18 mmol, 22.7 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | K3PO4 | 3.69 mmol, 0.78 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | CuI | 0.09 mmol, 17.6 mg | [Cu]I
solvent | water | O | H2O
product | 3-{2-[4-(2-Chloro-phenoxy)-phenyl]-thiomorpholin-4-yl}-propionic acid tert-butyl ester | 0.15 g | C(C)(C)(C)OC(CCN1CC(SCC1)C1=CC=C(C=C1)OC1=C(C=CC=C1)Cl)=O | C23H28ClNO3S
